V1 Net-_C1-Pad2_ Net-_R1-Pad2_ DC 12 
R1 Net-_I1-Pad2_ Net-_R1-Pad2_ 100 
I1 unconnected-_I1-Pad1_ Net-_I1-Pad2_ DC 2 
C1 unconnected-_C1-Pad1_ Net-_C1-Pad2_ 100n 
.end